US05476933
Preparation of 6,7-dimethyl-2-methoxy-5,6,7,8-tetrahydronaphthalene-1,4-dione (79).
A solution of 5,8-dihydro-6,7-dimethyl-2-methoxynaphthalene-1,4-diol (2.00 g, 9.08 mmol) in MeOH (250 mL) was hydrogenated over Pd/C (200 mg, 10%, Aldrich) at 30-40 psi for 24 h at rt in a Parr hydrogenator. The catalyst was removed by filtration (Celite) and the solvent removed in vacuo to yield a brown tacky solid (~2.2 g, ~100%). Analysis (1H NMR) showed the solid to be a mixture of reduced diol (90%) and 2-methoxy-6,7-dimethylnaphthalene-1,4-dione. Without purification, the mixture was dissolved in CHCl3 (100 mL) and the resulting solution vigorously stirred with a solution of NaIO4 (3.89 g, 18.2 mmol, Baker) in H2O (200 mL) for 30 min at rt. The layers were separated and the aqueous portion extracted with CHCl3 (1×30 mL). The combined organic portion was washed with saturated brine (1×30 mL), filtered through a cotton plug and the solution concentrated in vacuo to yield a brown concentrate. The concentrate was passed through a silica gel column (2.5×17 cm) with CHCl3 elution to give an initial yellow band, which contained the desired product. Solvent removal in vacuo yield a brown oil (1.3 g). This material was further purified on a silica gel column (2.5×25 cm) to yield an orange viscous oil from the initial band (787 mg, 39%, pure by TLC and 1H NMR, as a probable mixture of cis- and trans-isomers (85 to 15)); 1H NMR (CDCl3) δ0.88 (d, J=6.6 Hz, 6H), 1.90 (m, 2H), 2.20 (m, 2H), 2.50 (m, 2H), 3.79 (s, 3H), 5.85 (s, 1H). The minor isomer shows a doublet at 1.03, J=6.0 Hz.

reactant | 2-methoxy-6,7-dimethylnaphthalene-1,4-dione | COC=1C(C2=CC(=C(C=C2C(C1)=O)C)C)=O | C13H12O3
solvent | H2O | 200 mL | O | H2O
product | 6,7-dimethyl-2-methoxy-5,6,7,8-tetrahydronaphthalene-1,4-dione | CC1CC=2C(C=C(C(C2CC1C)=O)OC)=O | C13H16O3
